US07989457B2
To a mixture of (±)-3-({4-[2-cyclohexyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-ethoxy]-benzoyl}-methyl-amino)-propionic acid tert-butyl ester (7.4 mg, 0.012 mmol) in THF (0.5 mL) is added LiOH (1 N aqueous, 0.5 mL) and stirred at 70° C. overnight. The reaction mixture is acidified with 1N HCl (1.0 mL), diluted with water, and extracted with EtOAc (3×5 mL). Combined organic extracts are dried over MgSO4, filtered, and conc. to provide (±)-3-({4-[2-cyclohexyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-ethoxy]-benzoyl}-methyl-amino)-propionic acid (4.6 mg, 68%) as a clear syrup. MS (ES): 554.2 [M+H]+.

reactant | (±)-3-({4-[2-cyclohexyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-ethoxy]-benzoyl}-methyl-amino)-propionic acid tert-butyl ester | 0.012 mmol, 7.4 mg | C(C)(C)(C)OC(CCN(C)C(C1=CC=C(C=C1)OC(CC1CCCCC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C36H42F3NO4
reactant | LiOH | 1 N, 0.5 mL | [Li+].[OH-]
reactant | HCl | 1N, 1.0 mL | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (±)-3-({4-[2-cyclohexyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-ethoxy]-benzoyl}-methyl-amino)-propionic acid | 4.6 mg, 68% | C1(CCCCC1)CC(OC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C32H34F3NO4
